US04608435
12.4 Parts of 2-methylhydroquinone, 14.2 parts of methyl 5-methylhex-5-enoate, and 0.5 parts of p-toluene sulphonic acid are heated on a steam bath for 24 hours. The cooled reaction mixture is treated with ether, washed firstly with a 10% aqueous solution of sodium hydroxide, and then with water until the aqueous phase is neutral. The ethereal layer is separated and evaporated to give a viscous oil which after short-path distillion at 0.13 mb gives methyl 5-(2',5'-dihydroxy-4'-methyl-phenyl)-5-methyl-hexenoate with the following percentage composition by weight.

reactant | 2-methylhydroquinone | CC1=C(O)C=CC(=C1)O | C7H8O2
reactant | methyl 5-methylhex-5-enoate | CC(CCCC(=O)OC)=C | C8H14O2
reactant | p-toluene sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ether | CCOCC | C4H10O
product | methyl 5-(2',5'-dihydroxy-4'-methyl-phenyl)-5-methyl-hexenoate | OC1=C(C=C(C(=C1)C)O)C(CC=CC(=O)OC)(C)C | C15H20O4
